* E:\Arturo UTN\UTN_Arturo\Electronica Aplicada II\Draft1.asc
Q1 N003 N005 N006 0 NPN
Q2 N002 N003 N004 0 NPN
R1 N001 N003 4.7k
R2 N004 0 10k
R3 N006 0 1.2k
R4 N001 N005 355k
R5 N005 0 100k
R6 N001 N002 4.7k
C1 N006 0 100µ
V1 N001 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\Arturo\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 20ms 10ms 1ms
.backanno
.end
